US04589910
A solution of 6.1 parts of N-methoxy-N-methylamine in 100 parts of diethyl ether was added to a solution of 33.6 parts of 5-(4'-isocyanato-2'-trifluoromethylphenoxy)-benzisothiazole in 300 parts of diethyl ether at from 20 to 30° C., the reaction mixture was stirred for 12 hours at this temperature and the resulting precipitate was then isolated. 33 parts (83% of theory) of 5-[4'-(N-methoxy-N-methylaminocarbonylamino)-2'-trifluoromethylphenoxy]-benzisothiazole of melting point 197° C. were obtained.

reactant | N-methoxy-N-methylamine | CONC | C2H7NO
reactant | 5-(4'-isocyanato-2'-trifluoromethylphenoxy)-benzisothiazole | N(=C=O)C1=CC(=C(OC=2C=CC3=C(C=NS3)C2)C=C1)C(F)(F)F | C15H7F3N2O2S
reactant | diethyl ether | C(C)OCC | C4H10O
product | 5-[4'-(N-methoxy-N-methylaminocarbonylamino)-2'-trifluoromethylphenoxy]-benzisothiazole | 83% | CON(C(=O)NC)C1=CC(=C(OC=2C=CC3=C(C=NS3)C2)C=C1)C(F)(F)F | C17H14F3N3O3S
